US05455252
6-(methylthiomethyl)-8-bromoquinoline and benzene boronic acid can be combined to form 6-(methylthiomethyl)-8-phenylquinoline, and

reactant | 6-(methylthiomethyl)-8-bromoquinoline | CSCC=1C=C2C=CC=NC2=C(C1)Br | C11H10BrNS
reactant | benzene boronic acid | C1(=CC=CC=C1)B(O)O | C6H7BO2
product | 6-(methylthiomethyl)-8-phenylquinoline | CSCC=1C=C2C=CC=NC2=C(C1)C1=CC=CC=C1 | C17H15NS
